US06974806B2
Synthesis of Ethyl 2-[6,7-bis(hydroxymethyl)-2-oxo-4-phenyl-2H-chromen-3-yl]acetate
A solution of ethyl 2-[6,7-bis(acetoxymethyl)-2-oxo-4-phenyl-2H-chromen-3-yl]acetate (240 mg) in ethanol (4 ml) was combined with DBU (0.4 ml), and stirred at room temperature for 30 minutes. The reaction solution was diluted with ethyl acetate (30 ml), and then washed with a 1 N solution of hydrochloric acid followed by a saturated aqueous solution of sodium chloride, a saturated aqueous solution of sodium hydrogen carbonate and a saturated aqueous solution of sodium chloride, and after drying over magnesium sulfate, the solvent was distilled off under reduced pressure. The resultant residue was recrystallized from ether to obtain the title compound (167 mg, yield: 86%). Melting point: 130-131° C.

reactant | ethyl 2-[6,7-bis(acetoxymethyl)-2-oxo-4-phenyl-2H-chromen-3-yl]acetate | 240 mg | C(C)(=O)OCC=1C=C2C(=C(C(OC2=CC1COC(C)=O)=O)CC(=O)OCC)C1=CC=CC=C1 | C25H24O8
reactant | DBU | 0.4 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[6,7-bis(hydroxymethyl)-2-oxo-4-phenyl-2H-chromen-3-yl]acetate | 167 mg, yield: 86% | OCC=1C=C2C(=C(C(OC2=CC1CO)=O)CC(=O)OCC)C1=CC=CC=C1 | C21H20O6
